US05075330
2-[(2,6-Dichloro-3-methylphenyl)amino]benzoic acid methyl ester (3.3 g, 10.6 mmol) is dissolved in 30 ml of dry THF and added to a solution of dimsyl anion (JACS, 84, 866, 1982) (31.9 mmol) in 60 ml of 1:1 DMSO/THF at 0° C. under argon. When addition is complete, the ice bath is removed and the reaction mixture is stirred at room temperature for five hours. The reaction is quenched with 400 ml of 1N hydrochloric acid, and extracted twice with 300 ml of chloroform. The combined chloroform extract is washed with 300 ml of water three times, and once with 300 ml of brine. This chloroform layer is dried over magnesium sulfate and evaporated. The residue solidifies after being dried at room temperature under vacuum for 12 hours. Recrystallization from methylene chloride in hexane gives 1.0 g of 1-[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]-2-(methylsulfinyl)ethanone (26% yield); mp 152°-154° C.

reactant | 2-[(2,6-Dichloro-3-methylphenyl)amino]benzoic acid methyl ester | 10.6 mmol, 3.3 g | COC(C1=C(C=CC=C1)NC1=C(C(=CC=C1Cl)C)Cl)=O | C15H13Cl2NO2
reactant | DMSO THF | 60 ml | CS(=O)C.C1CCOC1
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]-2-(methylsulfinyl)ethanone | 1.0 g, 26% yield | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(CS(=O)C)=O | C16H15Cl2NO2S
